* Series RLC step response — an underdamped second-order transient.
* V1 --[R1 10]-- a --[L1 1mH]-- out --[C1 1uF]-- gnd, cold-started at x=0, so the
* constant 5 V source is a step (the same trick rc_step.net uses).
* w0 = 1/sqrt(LC) = 31623 rad/s (f0 ~ 5.03 kHz, period ~199us); damping ratio
* zeta = (R/2)*sqrt(C/L) = 0.158, so V(out) overshoots and rings down with an
* envelope time constant 2L/R = 200us. Exercises the inductor's branch-current row
* and its flux on the charge channel; a first-order or wrongly-signed stamp cannot
* produce this waveform at all.
V1 in  gnd  DC 5
R1 in  a    10
L1 a   out  1e-3
C1 out gnd  1e-6
.tran 1e-6 1e-3 UIC
.end
